US08076487B2
(1) Production of 2-(dimethylamino)carbamoylacetic acid ethyl ester
Ethyl malonyl chloride (5.0 g, 33 mmol) was added to a mixed solution of N,N-dimethylhydrazine (4.0 g, 67 mmol), triethylamine (6.7 g, 66 mmol) and acetonitrile (30 mL) at 10° C. or below. The mixture was stirred overnight at room temperature. The reaction mixture was added with an aqueous solution of citric acid, and extracted with chloroform. The organic layer was washed with water, dried, and concentrated, to obtain 4.6 g of a desired product (yield: 79%).

reactant | Ethyl malonyl chloride | 33 mmol, 5.0 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | N,N-dimethylhydrazine | 67 mmol, 4.0 g | CN(N)C | C2H8N2
reactant | triethylamine | 66 mmol, 6.7 g | C(C)N(CC)CC | C6H15N
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(dimethylamino)carbamoylacetic acid ethyl ester | 4.6 g, yield: 79% | C(C)OC(CC(NN(C)C)=O)=O | C7H14N2O3
